US03971849
Adenosine-5'-Carboxylic Acid, Ethyl Ester
11.7 g. of Isopropylidene adenosine were dissolved in 3.5 liters of water and the pH was adjusted to 12.2 by the addition of 5.85 g. of potassium hydroxide. 23.7 g. of potassium permanganate in 825 ml. of water were added dropwise with stirring over a period of 33/4 hours. The solution was then allowed to sit at room temperature overnight. The excess permanganate was destroyed by the dropwise addition of 30% hydrogen peroxide and the reaction mixture was filtered through a layer of NH3 -washed celite. The yellow filtrate was concentrated in vacuo at 35°-45° to 600 ml. and the acid precipitated in an ice bath by adjusting the pH to 4.5 by the dropwise addition of 1:3 HCl. The white precipitate was washed with dilute (1:1000) acetic acid and dried at 135°C. to yield 7.93 g. of the crude isopropylidene product, m.p. 265-8°. The material was taken up in 100 ml. of dilute NH3, and recrystallized by adjusting the pH to 4.5 by the addition of 1:3 acetic acid to yield 7.7 g. of 2',3'-isopropylidene adenosine-5'-carboxylic acid, m.p. 272-3°.

reactant | Isopropylidene adenosine | C(C)(C)=C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C13H17N5O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 3.5 liters | O | H2O
product | Adenosine-5'-Carboxylic Acid, Ethyl Ester | [C@@H]1([C@H](O)[C@H](O)[C@@H](C(O)C(=O)OCC)O1)N1C=NC=2C(N)=NC=NC12 | C13H17N5O6
